US04241072
N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(2-thiazolyl) urea
Following the procedure of Example 1C using 18.2 g. (0.1065 moles) of N,N-dimethyl-N'-(2-thiazolyl)-1,2-ethane diamine, 12.1 g. (0.120 moles) of triethylamine, 12.5 g. (0.116 moles) of dimethylcarbamoyl chloride and 135 ml. of dry benzene, there is obtained 20.1 g. of N,N-dimethyl-N'-(2-dimethylaminoethyl)-N'-(2-thiazolyl) urea as an oil which is distilled at 108°-110° C., at 0.02 mm. of Hg.

reactant | N,N-dimethyl-N'-(2-thiazolyl)-1,2-ethane diamine | 0.1065 moles | CN(CCNC=1SC=CN1)C | C7H13N3S
reactant | triethylamine | 0.120 moles | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.116 moles | CN(C(=O)Cl)C | C3H6ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-N'-(2-dimethylaminoethyl)-N'-(2-thiazolyl) urea | CN(C(=O)N(C=1SC=CN1)CCN(C)C)C | C10H18N4OS
